US04640920
N-(3-Chloropropyl)-4-(7-chloro-4-quinazolinylamino)-Benzenesulphonamide
4-(7-Chloro-4-quinazolinylamino)benzenesulphonyl chloride hydrochloride (11.7 g, 0.03 mole) was added portionwise to a well stirred mixture of sodium carbonate (45 g) in water (350 ml) and 3-chloropropylamine hydrochloride (3.9 g, 0.03 mole) in chloroform (350 ml) was added at 10° C. After about 1 hour at room temperature, the mixture was filtered and the solid was washed with water and then dried to give 7.4 g of the title compound. A sample was recrystallised from a mixture of ethanol and water to give the title compound, m.p. 168°-171° C.

reactant | 4-(7-Chloro-4-quinazolinylamino)benzenesulphonyl chloride hydrochloride | 0.03 mole, 11.7 g | Cl.ClC1=CC=C2C(=NC=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)Cl
reactant | sodium carbonate | 45 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-chloropropylamine hydrochloride | 0.03 mole, 3.9 g | Cl.ClCCCN
solvent | water | 350 ml | O | H2O
solvent | chloroform | 350 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(3-Chloropropyl)-4-(7-chloro-4-quinazolinylamino)-Benzenesulphonamide | 7.4 g | ClCCCNS(=O)(=O)C1=CC=C(C=C1)NC1=NC=NC2=CC(=CC=C12)Cl | C17H16Cl2N4O2S
